US04239901
102.2 g (0.64 mole) of bromine are added dropwise at room temperature, with stirring, to a suspension of 100 g (0.52 mole) of 4-acetamidophenylacetic acid in 1 liter of glacial acetic acid; during this dropwise addition, a solution forms intermittently. Subsequently, heating to 60° C. is effected for 12 hours, followed by cooling to room temperature, diluting with 2 liters of water and extracting three times with diethyl ether. The organic phase is washed with sodium hydrogen sulfite solution and water, dried and concentrated to dryness. The residue is recrystallized from acetonitrile to yield 78 g (55.3% of theory) of 4-acetamido-3-bromophenylacetic acid (m.p. 157° to 159° C.).

reactant | bromine | 0.64 mole, 102.2 g | BrBr | Br2
reactant | 4-acetamidophenylacetic acid | 0.52 mole, 100 g | C(C)(=O)NC1=CC=C(C=C1)CC(=O)O | C10H11NO3
solvent | acetic acid | 1 liter | C(C)(=O)O | C2H4O2
solvent | water | 2 liters | O | H2O
product | 4-acetamido-3-bromophenylacetic acid | 78 g, 55.3% | C(C)(=O)NC1=C(C=C(C=C1)CC(=O)O)Br | C10H10BrNO3
